US20010003749A1
Preparation of Cyclohexyl 1-phenylethyl ketone
DMSO (118 mL, 1.6674 mol) was added dropwise to a solution of 126.42 g (0.579 mol) of 1-cyclohexyl-2-phenylpropanol in 1737 mL of CH2Cl2 (cooled in a wet ice acetone bath). After 29 min, 147.93 g (1.0422 mol) of P2O5 was added. After 11 min, the cooling bath was removed. An aliquot quenched with Et3N showed complete reaction within 3 h at RT. The reaction mixture was cooled in a wet ice acetone bath. Et3N (282 mL, 2.0265 mol) was added dropwise to the cooled reaction mixture over a 30 min period. The cooling bath was removed and the mixture was stirred overnight at RT. The reaction mixture was quenched by dropwise addition of 500 mL of 3 N HCl (aq) (pH=0). After shaking in separatory funnel, the aqueous phase was removed. The organic phase was washed with 500 mL of 3 N HCl (aq) (pH=0), washed twice with 1 L of 10% K2CO3 (aq) (pH=12;12), washed three times with 500 mL of NaOCl (aq) solution, washed with 1 L of water, washed with 1 L of 25% NaCl (aq), dried over MgSO4, gravity filtered and concentrated under vacuum with dry ice trap to collect Me2S. An amber oil of the title compound (107.01 g, 85.437 %) was obtained;

reactant | DMSO | 1.6674 mol, 118 mL | CS(=O)C | C2H6OS
reactant | 1-cyclohexyl-2-phenylpropanol | 0.579 mol, 126.42 g | C1(CCCCC1)C(C(C)C1=CC=CC=C1)O | C15H22O
reactant | P2O5 | 1.0422 mol, 147.93 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | Et3N | 2.0265 mol, 282 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 1737 mL | C(Cl)Cl | CH2Cl2
product | Cyclohexyl 1-phenylethyl ketone | 107.01 g, 85.437 % | C1(=CC=CC=C1)C(C)C(=O)C1CCCCC1 | C15H20O
